US08802665B2
(2S,4R)-1-(1-(4-Acetylpiperazin-1-yl)cyclopropanecarbonyl)-4-(2-chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)pyrrolidine-2-carboxamide
To a solution of (2S,4R)-4-(2-chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(piperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide (38 mg, 75.1 μmol) in methylenehloride (0.75 mL) was added under stirring ethyldiisopropyl amine (19.7 μL, 113 μmol) and acetyl chloride (5.99 μL, 82.6 μmol). The reaction was stirred at room temperature for 5 hours and additional ethyldiisopropyl amine (19.7 μL, 113 μmol) and acetyl chloride (5.99 μL, 82.6 μmol) was added. The reaction was stirred at room temperature over night. The reaction was purified by column chromatography on silica gel using a gradient from methylenechloride to a mixture of methylenechloride/methanol (v:v 19:1) as solvent to yield the title compound as a white solid (28.8 mg, 70%). MS ISP (m/e): 548.3/550.4 (100/41) [(M+H)]+.

reactant | (2S,4R)-4-(2-chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(piperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide | 75.1 μmol, 38 mg | ClC1=C(C=CC=C1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)N1CCNCC1)C(=O)NC1(CC1)C#N | C23H28ClN5O4S
reactant | acetyl chloride | 82.6 μmol, 5.99 μL | C(C)(=O)Cl | C2H3ClO
reactant | ethyldiisopropyl amine | 113 μmol, 19.7 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | acetyl chloride | 82.6 μmol, 5.99 μL | C(C)(=O)Cl | C2H3ClO
product | (2S,4R)-1-(1-(4-Acetylpiperazin-1-yl)cyclopropanecarbonyl)-4-(2-chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)pyrrolidine-2-carboxamide | 28.8 mg, 70% | C(C)(=O)N1CCN(CC1)C1(CC1)C(=O)N1[C@@H](C[C@H](C1)S(=O)(=O)C1=C(C=CC=C1)Cl)C(=O)NC1(CC1)C#N | C25H30ClN5O5S
